US08349880B2
Step O (3): Dichloromethane (100 mL) was added to a flask charged with 6-(4-chloro-1H-imidazol-1-yl)-5-methoxypyridin-3-amine (3.0 g, 13.35 mmol) and 1,1′-thiocarbonyldipyridin-2(1H)-one (3.10 g, 13.35 mmol). The resulting mixture was stirred for 18 h at rt. The reaction mixture was concentrated in vacuo. The crude products were purified using silica gel chromatography (0-5% EtOAc/chloroform, linear gradient) to afford 2-(4-chloro-1H-imidazol-1-yl)-5-isothiocyanato-3-methoxypyridine (2.89 g, 81% yield) as a yellow solid. LC-MS (M+H)+ 267.1. 1H NMR (500 MHz, chloroform-d) δ ppm 8.30 (s, 1 H) 8.02 (s, 1 H) 7.72 (s, 1 H) 7.20 (s, 1 H) 4.00 (s, 3 H).

reactant | 6-(4-chloro-1H-imidazol-1-yl)-5-methoxypyridin-3-amine | 13.35 mmol, 3.0 g | ClC=1N=CN(C1)C1=C(C=C(C=N1)N)OC | C9H9ClN4O
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 13.35 mmol, 3.10 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-(4-chloro-1H-imidazol-1-yl)-5-isothiocyanato-3-methoxypyridine | 2.89 g, 81% yield | ClC=1N=CN(C1)C1=NC=C(C=C1OC)N=C=S | C10H7ClN4OS
